US07053060B2
To a suspension of 2-(4-methoxybenzyl)-3,5-dimethylphenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (7.4 g) in ethanol (150 mL) was added 2 mol/L aqueous sodium hydroxide solution (65 mL), and the mixture was stirred at room temperature for 2 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give 2-(4-methoxybenzyl)-3,5-dimethylphenyl β-D-glucopyranoside (5.2 g).

reactant | 2-(4-methoxybenzyl)-3,5-dimethylphenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 7.4 g | C(C)(=O)O[C@H]1[C@H](OC2=C(C(=CC(=C2)C)C)CC2=CC=C(C=C2)OC)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C30H36O11
reactant | sodium hydroxide | 2 mol/L, 65 mL | [OH-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2-(4-methoxybenzyl)-3,5-dimethylphenyl β-D-glucopyranoside | 5.2 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C(=CC(=C1)C)C)CC1=CC=C(C=C1)OC | C22H28O7
